US05449787
Cis-3-n-propylamino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)pyrrolidine
Into 2 ml of DMF were dissolved 200 mg (0.68 mmol) of cis-3-amino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)pyrrolidine hydrochloride and 0.11 ml (0.81 mmol) of triethylamine, and 188 mg (1.36 mmol) of n-propyl methanesulfonate was added under ice cooling. Then, the mixture was stirred for 5 hours at room temperature, for 3 hours at 60° C. and further for 5 hours at 70° C. After addition of water, the solution was made alkaline with sodium bicarbonate, which was then extracted with methylene chloride. After washed with saturated saline solution and dried over anhydrous magnesium sulfate, the solution was concentrated under reduced pressure to obtain crude oil. This was subjected to silica gel column chromatographic purification (methylene chloride:methanol=20:1) to obtain 57 mg (27.9%) of aimed compound (pale yellow oil).

reactant | cis-3-amino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)pyrrolidine hydrochloride | 0.68 mmol, 200 mg | Cl.N[C@@H]1CN(C[C@@H]1C)C(=O)C1=NN(C2=CC=CC=C12)C
reactant | triethylamine | 0.81 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | n-propyl methanesulfonate | 1.36 mmol, 188 mg | CS(=O)(=O)OCCC | C4H10O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Cis-3-n-propylamino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)pyrrolidine | 57 mg, 27.9% | C(CC)N[C@@H]1CN(C[C@@H]1C)C(=O)C1=NN(C2=CC=CC=C12)C | C17H24N4O
